US06174874B1
Step 1 Dibenzyl 2-{4-[(di-tert-butoxyphosphoryl)methyl]benzyl}malonate
To a solution of dibenzyl malonate (0.5 g) in DMF (8 mL), was added sequentially NaH (0.06 g, 80% in mineral oil), di(tert-butyl) [4-(bromomethyl)benzyl]phosphonate(0.66 g). The reaction mixture was stirred at room temperature for 1 h, then quenched with 20 mL of saturated aqueous NH4OAc solution and extracted with 50 mL EtOAc. The extract was dried over Na2SO4 and concentrated. The sesidue was purified by silica gel chromatography eluted with to give the title compound (0.2 g).

reactant | dibenzyl malonate | 0.5 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | NaH | 0.06 g | [H-].[Na+]
reactant | di(tert-butyl) [4-(bromomethyl)benzyl]phosphonate | 0.66 g | BrCC1=CC=C(CP(OC(C)(C)C)(OC(C)(C)C)=O)C=C1 | C16H26BrO3P
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Dibenzyl 2-{4-[(di-tert-butoxyphosphoryl)methyl]benzyl}malonate | 0.2 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)CC1=CC=C(CC(C(=O)OCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)C=C1 | C33H41O7P
